US07485644B2
1-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]piperazine (10.95 g, 0.04) was dissolved in DCM (500 ml) and triethylamine (18.5 ml, 0.13 mol) was added. The mixture was cooled to 0° C. and methane sulphonyl chloride (7.4 ml, 0.048 mol) added. Allowed to reach ambient temperature and stirred overnight. The reaction mixture washed with water and the organic phase collected, dried over MgSO4, filtered and evaporated to dryness. The residual solid was crystallised from ethanol to yield 1-(methylsulfonyl)-4-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]piperazine as a white solid. Yield 12.3 g (78.5%)

reactant | 1-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]piperazine | 10.95 g | FC(C(F)F)(OC1=CC=C(C=C1)N1CCNCC1)F | C12H14F4N2O
reactant | triethylamine | 0.13 mol, 18.5 ml | C(C)N(CC)CC | C6H15N
reactant | methane sulphonyl chloride | 0.048 mol, 7.4 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 500 ml | C(Cl)Cl | CH2Cl2
product | 1-(methylsulfonyl)-4-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]piperazine | CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)OC(C(F)F)(F)F | C13H16F4N2O3S
